US04678474
While cooling the reaction mixture, 52.1 g of 35% hydrochloric acid was added to 56.6 g (0.5 mole) of N-sec-butylallylamine to obtain 108.7 g of a 68.84% aqueous solution of N-sec-butylallylamine hydrochloride (hereinafter, abbreviated as s-BAA.HCl). After diluting 21.74 g (0.1 mole) of the latter solution with 13.98 g of water, 16.17 g of dimethyldiallylammonium chloride (hereinafter, abbreviated as DMDA AmCl) was dissolved thereinto to prepare an aqueous solution having a monomer concentration of 60%. After heating the solution to 60° C., 0.934 g of 2,2'-azobis(2-amidinopropane) dihydrochloride was added as a polymerization initiator, and a polymerization reaction was carried out at that temperature for 48 hours. After the reaction, the reaction mixture (a solution) was poured into a large amount of acetone to precipitate the reaction product. The precipitate was collected by filtration using a glass filter and then dried under reduced pressure. Thus, a copolymer of N-sec-butylallylamine hydrochloride and dimethyldiallylammonium chloride was obtained.

reactant | hydrochloric acid | 52.1 g | Cl | ClH
reactant | N-sec-butylallylamine | 0.5 mole, 56.6 g | C(C)(CC)C=CCN | C7H15N
product | N-sec-butylallylamine hydrochloride | Cl.C(C)(CC)C=CCN | InChI=1S/C7H15N.ClH/c1-3-7(2)5-4-6-8;/h4-5,7H,3,6,8H2,1-2H3;1H
